US08013156B2
A mixture of t-butyl 1-homopiperazine carboxylate (45 mmol, 9 g) and DMF (50 ml) was heated to 100° C. 3,4-dichloro-1,2,5-thiadiazole (23 mmol, 2.2 ml) was added dropwise to the mixture with stirring. The resulting mixture was stirred at 100° C. for 2 days. Mixture was quenched with ice/water and extracted with ethyl acetate (3×). The combined organic layer was washed with water (2×) and Sat. sodium chloride, dried over sodium sulfate, filtered and concentrated. The crude was purified on a silica column using 20% ethyl acetate/hexanes to give 4-(4-chloro-[1,2,5]thiadiazol-3-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (5.8 g). The material thus obtained was converted into the title compound by following the same procedures as in Example 1. 1H NMR (CDCl3) 9.52 (s, 2H), 7.838 (s, 2H), 7.508 (s, 1H), 7.321-7.307 (d, 2H), 6.769 (br. s, 1H), 5.464 (s, 2H), 3.925-3.851 (m, 4H), 3.820-3.790 (t, 2H), 3.612-3.582 (t, 2H), 1.987-1.959 (m, 2H) ppm.

reactant | t-butyl 1-homopiperazine carboxylate | 45 mmol, 9 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3,4-dichloro-1,2,5-thiadiazole | 23 mmol, 2.2 ml | ClC1=NSN=C1Cl | C2Cl2N2S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-[1,2,5]thiadiazol-3-yl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 5.8 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NSN=C1Cl | C12H19ClN4O2S
